US08871753B2
Step F: 6-Chloro-2,4,8,19,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene
To a mixture of N-{3-[2-(2-aminopyridin-4-yl)ethyl]phenyl}-2,5-dichloropyrimidin-4-amine dihydrochloride (35.0 mg, 0.08 mmol) and triethylamine (0.034 mL, 0.24 mmol) in a mixed solvent of 1,4-dioxane (0.70 mL) and N,N-dimethylformamide (0.70 mL) at rt were added (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (5.6 mg, 0.010 mmol), palladium acetate (2.2 mg, 0.010 mmol) and cesium carbonate (52.6 mg, 0.16 mmol). The mixture was degassed by bubbling N2 through the solution. The sealed tube was then microwaved at 160° C. for 20 min. The reaction mixture was diluted with THF/MeOH, filtered and concentrated to give a residue, which was triturated with MeOH/EtOAc (1:1) to provide the desired product (16 mg, 61%) as a light brown powder. LCMS for C17H15ClN5 (M+H)+: m/z=324.0. 1H NMR (400 MHz, DMSO-d6): δ 9.44 (s, 1H), 9.22 (s, 1H), 8.18 (m, 1H), 8.06 (m, 1H), 7.86 (m, 1H), 7.68 (m, 1H), 7.40 (m, 1H), 7.28 (m, 1H), 7.05 (m, 1H), 6.28 (m, 1H), 3.05 (m, 4H).

reactant | N-{3-[2-(2-aminopyridin-4-yl)ethyl]phenyl}-2,5-dichloropyrimidin-4-amine dihydrochloride | 0.08 mmol, 35.0 mg | Cl.Cl.NC1=NC=CC(=C1)CCC=1C=C(C=CC1)NC1=NC(=NC=C1Cl)Cl
reactant | triethylamine | 0.24 mmol, 0.034 mL | C(C)N(CC)CC | C6H15N
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.010 mmol, 5.6 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | cesium carbonate | 0.16 mmol, 52.6 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | palladium acetate | 0.010 mmol, 2.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | N,N-dimethylformamide | 0.70 mL | CN(C=O)C | C3H7NO
solvent | 1,4-dioxane | 0.70 mL | O1CCOCC1 | C4H8O2
product | 6-Chloro-2,4,8,19,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene | 16 mg, 61% | ClC=1C=NC=2NC=3N=CC=C(CCC4=CC=CC(NC1N2)=C4)C3 | C17H14ClN5
